US07855194B2
Piperidin-4-yl-(4,6,7-trimethoxy-quinazolin-2-yl)-amine dihydrochloride
A solution of 4-(4,6,7-trimethoxy-quinazolin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (0.2 g, 0.48 mmol) in ethanol (5 mL) and 4 M HCl in dioxane (20 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ESI): 319.4 [M+H]+.

reactant | 4-(4,6,7-trimethoxy-quinazolin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 0.48 mmol, 0.2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC2=CC(=C(C=C2C(=N1)OC)OC)OC | C21H30N4O5
reactant | HCl | 4 M | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | Piperidin-4-yl-(4,6,7-trimethoxy-quinazolin-2-yl)-amine dihydrochloride | Cl.Cl.N1CCC(CC1)NC1=NC2=CC(=C(C=C2C(=N1)OC)OC)OC | InChI=1S/C16H22N4O3.2ClH/c1-21-13-8-11-12(9-14(13)22-2)19-16(20-15(11)23-3)18-10-4-6-17-7-5-10;;/h8-10,17H,4-7H2,1-3H3,(H,18,19,20);2*1H
